datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:16](=[C:17]([H:19])[H:20])[H:18])[H:8],3.05432
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:24])([H:25])[H:26])=[C:13]([C:14]([H:27])([H:28])[H:29])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:13]([C:11]([C:10](=[C:9]([H:21])[H:22])[H:23])[C:12]([H:24])([H:25])[H:26])([C:14]([H:27])([H:28])[H:29])[c:15]1[c:16]([H:30])[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]1[H:34])[H:4],39.5806
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]([C:8]([H:12])([H:13])[H:14])[C:9]#[C:10][H:15])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:11])([C:8]([H:12])([H:13])[H:14])[C:9]#[C:10][H:15],118.826
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22])[H:6],48.367
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](#[C:12][C:13]([C:14]([H:17])([H:18])[H:19])[H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:13]([C:12]#[C:11][H:15])([C:14]([H:17])([H:18])[H:19])[H:16])[C:4]([H:8])([H:9])[H:10])[H:5],23.1794
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([C:18]([H:26])([H:27])[H:28])[H:22])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:19])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])([C:18]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21],85.60464
[H:0][H:1].[c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12]>>[H:0].[H:1][c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12],19.074856
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[c:20]1([H:26])[c:21]([H:27])[c:22]([H:28])[c:23]([H:29])[c:24]([H:30])[c:25]1[H:31]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:26])([H:9])([H:10])[H:11].[c:20]1[c:21]([H:27])[c:22]([H:28])[c:23]([H:29])[c:24]([H:30])[c:25]1[H:31],119.118
[C:0](#[C:1][C:2]([S:3][C:4]([H:8])([H:9])[H:10])([H:6])[H:7])[H:5].[H:11]>>[C:0](#[C:1][C:2]([H:6])[H:7])[H:5].[S:3]([C:4]([H:8])([H:9])[H:10])[H:11],10.46
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([O:7][O:8])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:12],125.030472
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:21][O:38],7.397312
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])[C:6]1([H:18])[H:19],27.196
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23],31.7984
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([S:12][H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:13])[H:6])([H:4])[H:5].[C:11]([S:12][H:16])([H:14])[H:15],69.8728
